* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Latest_stable.asc
R1 N067 N066 9.1Meg
XU1 N063 N051 +5 -5 N060 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N060 N063 0.1Meg
R3 0 N063 390K
R4 P001 0 100K
R5 N060 N051 120K
C1 N051 0 47n
C2 P001 N062 0.001µ
XU2 membr N053 +5 -5 N064 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 0 membr 2µ
R6 N064 N053 10K
R7 N064 membr 4.7K
R8 N053 0 1Meg
V1 +5 0 5
V2 0 -5 5
XU3 N064 N059 +5 -5 N062 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N061 N047 +5 -5 N057 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D2 0 N047 D
D3 P002 N061 D
R9 N057 N061 0.1Meg
R10 0 N061 100K
R11 P002 0 100K
R12 N057 N047 150K
C4 N047 0 22n
C5 P002 N060 0.001µ
XU5 0 N070 +5 -5 N065 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R15 N065 N070 1Meg
R16 N071 N070 1Meg
D5 N060 N071 D
R17 N065 membr 15K
R18 membr Tpre2 10K
R21 N059 -5 82K
R22 +5 N059 62K
XU6 N037 N035 +10 -10 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R23 N032 N035 300K
R24 N037 0 10K
R25 N037 N036 100K
XU7 N039 N034 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N039 0.1µ
R26 N039 Tpre1 10K
R27 N058 N045 10K
R28 N027 N034 10K
R29 N037 N029 100K
XU8 N038 N033 +5 -5 N036 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D7 0 N033 D
D8 P003 N038 D
R30 N036 N038 1Meg
R31 0 N038 700K
R32 P003 0 100K
C7 P003 N027 0.001µ
R33 N036 N033 22K
C8 N033 0 100n
R34 0 N035 10K
D9 N032 P004 D
R35 N037 -5 100K
XU9 N056 N044 +5 -5 N054 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D10 0 N044 D
D11 P005 N056 D
R36 N054 N056 1Meg
R37 0 N056 700K
R38 P005 0 100K
R39 N054 N044 22K
C9 N044 0 100n
C10 P005 N029 0.001µ
XU10 N055 N052 +10 -10 N041 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R40 N041 N052 300K
R41 N055 0 10K
R42 N055 N054 100K
R43 N055 N027 100K
R44 0 N052 10K
D12 N041 P006 D
R45 N055 -5 100K
R46 Sine N031 30K
R47 N031 P004 15K
R48 N040 N031 15K
R49 N027 N039 1Meg
R50 N034 0 1Meg
XU11 N058 N048 +5 -5 N029 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C11 0 N058 0.1µ
R51 N029 N048 10K
R52 N029 N058 1Meg
R53 N048 0 1Meg
XU12 0 N031 +10 -10 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R54 N040 N042 10K
XU13 0 N042 +10 -10 N040 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R55 N042 P006 10K
C12 Sine N031 0.047µ
XU14 N028 N024 +10 -10 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N022 N024 150K
R57 N028 0 10K
R58 N028 N027 100K
R59 0 N024 10K
R60 N028 N023 100K
R61 0 N023 100K
R62 N023 -5 50K
D13 N022 Sombrero D
R63 N025 N020 120K
XU15 N026 N020 +10 -10 N025 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R64 N020 Sombrero 100K
R65 N026 Sombrero 100K
Q1 N026 N030 0 0 NPN
R66 Hebbian N021 35K
R67 N021 N025 15K
R68 0 N021 15K
XU16 0 N021 +10 -10 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C13 Hebbian N021 0.047µ
R69 N030 Sine 1K
V9 Tpre2 0 PULSE(0 2 50m 1n 1n 3m 10m)
V10 Tpre1 0 PULSE(0 3 10m 1n 1n 3m 10.1m)
R70 N028 N029 100K
V11 +10 0 10
V12 0 -10 10
D1 0 N051 D
D6 P001 N063 D
XU20 PWM_OUT N066 +5 -5 N067 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=5000Meg
C14 N009 N006 2.2µ
R73 +5 N009 10K
R74 +5 N007 10K
Q2 N007 N009 0 0 2N2222
C15 N008 N007 0.1µ
D14 0 N008 RF05VA1S
XU21 N005 N006 +10 -10 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU22 N008 N003 +5 -5 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C16 N018 N014 2.2µ
R75 -5 N018 10K
R76 -5 N015 10K
C17 N016 N015 0.1µ
D15 N016 0 RF05VA1S
XU23 N016 N013 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Q3 0 N018 N015 0 BC858B
XU24 N019 N014 +10 -10 N014 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU25 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R77 N002 N001 13K
R78 N001 N003 100K
XU26 0 N011 +5 -5 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R79 N012 N011 13K
R80 N011 N013 180K
XU27 0 N010 +5 -5 PWM_OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R82 N010 N002 100K
R83 N010 N012 100K
R84 PWM_OUT N010 100K
D16 N004 N005 RF05VA1S
D17 N017 Hebbian RF05VA1S
R85 0 N005 100K
R86 N019 0 100K
D18 N019 N017 RF05VA1S
D19 Hebbian N004 RF05VA1S
R81 P007 N010 100K
V7 P007 0 -0.15
R19 membr out 10K
R13 N066 0 R=V(vres)*1Meg
XU28 N057 N045 +5 0 N045 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 vres 0 PWL file=gen2.txt
XU19 0 N043 +5 -5 log_pulse level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N043 Tpre1 1Meg
XU29 0 N069 +5 -5 log_level level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R91 N069 N068 1Meg
XU30 0 N046 +5 -5 sum level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R92 N046 log_level 100K
R93 N046 log_pulse 100K
R94 sum N046 100K
R95 inv_out N049 1000
XU31 0 N049 +5 -5 inv_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 N069 log_level 1N4148
D20 N043 log_pulse 1N4148
D21 sum N049 1N4148
R96 out N050 100K
XU32 0 N050 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R97 N050 inv_out 100K
XU17 N067 N068 +5 -5 N068 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
