* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\combined_sch\Latest_stable.asc
R1 N068 N067 18.2Meg
XU1 N064 N052 +5 -5 N061 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N061 N064 0.1Meg
R3 0 N064 390K
R4 P001 0 100K
R5 N061 N052 150K
C1 N052 0 47n
C2 P001 N063 0.001µ
XU2 membr N054 +5 -5 N065 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 0 membr 2µ
R6 N065 N054 10K
R7 N065 membr 4.7K
R8 N054 0 1Meg
V1 +5 0 5
V2 0 -5 5
XU3 N065 N060 +5 -5 N063 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N062 N048 +5 -5 N058 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D2 0 N048 1N4148
D3 P002 N062 1N4148
R9 N058 N062 0.1Meg
R10 0 N062 100K
R11 P002 0 100K
R12 N058 N048 150K
C4 N048 0 22n
C5 P002 N061 0.001µ
XU5 0 N071 +5 -5 N066 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R15 N066 N071 1Meg
R16 N072 N071 1Meg
D5 N061 N072 D
R17 N066 membr 15K
R18 membr Tpre2 10K
R21 N060 -5 82K
R22 +5 N060 62K
XU6 N037 N035 +10 -10 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R23 N032 N035 300K
R24 N037 0 10K
R25 N037 N036 100K
XU7 N039 N034 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N039 0.1µ
R26 N039 Tpre1 10K
R27 N059 N046 10K
R28 N027 N034 10K
R29 N037 N029 100K
XU8 N038 N033 +5 -5 N036 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D7 0 N033 D
D8 P003 N038 D
R30 N036 N038 1Meg
R31 0 N038 700K
R32 P003 0 100K
C7 P003 N027 0.001µ
R33 N036 N033 22K
C8 N033 0 100n
R34 0 N035 10K
D9 N032 P004 D
R35 N037 -5 100K
XU9 N057 N045 +5 -5 N055 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D10 0 N045 D
D11 P005 N057 D
R36 N055 N057 1Meg
R37 0 N057 700K
R38 P005 0 100K
R39 N055 N045 22K
C9 N045 0 100n
C10 P005 N029 0.001µ
XU10 N056 N053 +10 -10 N042 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R40 N042 N053 300K
R41 N056 0 10K
R42 N056 N055 100K
R43 N056 N027 100K
R44 0 N053 10K
D12 N042 P006 D
R45 N056 -5 100K
R46 Sine N031 30K
R47 N031 P004 15K
R48 N041 N031 15K
R49 N027 N039 1Meg
R50 N034 0 1Meg
XU11 N059 N049 +5 -5 N029 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C11 0 N059 0.1µ
R51 N029 N049 10K
R52 N029 N059 1Meg
R53 N049 0 1Meg
XU12 0 N031 +10 -10 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R54 N041 N043 10K
XU13 0 N043 +10 -10 N041 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R55 N043 P006 10K
C12 Sine N031 0.047µ
XU14 N028 N024 +10 -10 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N022 N024 150K
R57 N028 0 10K
R58 N028 N027 100K
R59 0 N024 10K
R60 N028 N023 100K
R61 0 N023 100K
R62 N023 -5 50K
D13 N022 Sombrero D
R63 N025 N020 120K
XU15 N026 N020 +10 -10 N025 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R64 N020 Sombrero 100K
R65 N026 Sombrero 100K
Q1 N026 N030 0 0 NPN
R66 Hebbian N021 35K
R67 N021 N025 15K
R68 0 N021 15K
XU16 0 N021 +10 -10 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C13 Hebbian N021 0.047µ
R69 N030 Sine 1K
V9 Tpre2 0 PULSE(0 3 50m 1n 1n 3m 10m)
V10 Tpre1 0 PULSE(0 3 10m 1n 1n 3m 10.1m)
R70 N028 N029 100K
V11 +10 0 10
V12 0 -10 10
D1 0 N052 1N4148
D6 P001 N064 1N4148
XU20 PWM_OUT N067 +5 -5 N068 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=5000Meg
C14 N009 N006 1µ
R73 +5 N009 10K
R74 +5 N007 10K
Q2 N007 N009 0 0 2N2222
C15 N008 N007 0.1µ
D14 0 N008 RF05VA1S
XU21 N005 N006 +10 -10 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU22 N008 N003 +5 -5 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C16 N018 N014 1µ
R75 -5 N018 10K
R76 -5 N015 10K
C17 N016 N015 0.1µ
D15 N016 0 RF05VA1S
XU23 N016 N013 +5 -5 N013 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Q3 0 N018 N015 0 BC858B
XU24 N019 N014 +10 -10 N014 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU25 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R77 N002 N001 13K
R78 N001 N003 100K
XU26 0 N011 +5 -5 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R79 N012 N011 13K
R80 N011 N013 180K
XU27 0 N010 +5 -5 PWM_OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R82 N010 N002 100K
R83 N010 N012 100K
R84 PWM_OUT N010 100K
D16 N004 N005 RF05VA1S
D17 N017 Hebbian RF05VA1S
R85 0 N005 100K
R86 N019 0 100K
D18 N019 N017 RF05VA1S
D19 Hebbian N004 RF05VA1S
R81 P007 N010 100K
V7 P007 0 -0.15
R19 membr out 10K
R13 N067 0 R=V(vres)*1Meg
XU28 N058 N046 N040 0 N046 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V3 vres 0 PWL file=gen2.txt
XU19 0 N044 +5 -5 log_pulse level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N044 Tpre1 1Meg
XU29 0 N070 +5 -5 log_level level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R91 N070 N069 1Meg
XU30 0 N047 +5 -5 sum level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R92 N047 log_level 100K
R93 N047 log_pulse 100K
R94 sum N047 100K
R95 inv_out N050 1000
XU31 0 N050 +5 -5 inv_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 N070 log_level 1N4148
D20 N044 log_pulse 1N4148
D21 sum N050 1N4148
R96 out N051 100K
XU32 0 N051 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R97 N051 inv_out 100K
XU17 N068 N069 +5 -5 N069 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V4 N040 0 3
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
